US09315521B2
The title compound was prepared by following the procedure described for Example 55 using 6-methoxypyridine-3-carbaldehyde to provide (6-methoxypyridin-3-yl)methanol, which was converted to 5-(bromomethyl)-2-methoxypyridine. The reaction of 5-(bromomethyl)-2-methoxypyridine and 6-methyl-2-sulfanylpyrimidin-4-ol provided 2-{[(6-methoxypyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (0.975 g, 75% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 3.79 (s, 3H), 4.29 (s, 2H), 5.99 (bs, 1H), 6.74 (d, J=8.3 Hz, 1H), 7.72 (d, J=8.3 Hz, 1H), 8.19 (s, 1H); M+263.87.

reactant | 5-(bromomethyl)-2-methoxypyridine | BrCC=1C=CC(=NC1)OC | C7H8BrNO
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(6-methoxypyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.975 g, 75% yield | COC1=CC=C(C=N1)CSC1=NC(=CC(=N1)O)C | C12H13N3O2S
